US07273868B2
In diglyme 2 ml are suspended 5-bromo-3-(3-chloro-4-methoxybenzylamino)-2-(2-pyrimidinylmethylaminocarbonyl)pyridine (prepared in the above (5)) 20 mg, trisdibenzylidene acetone palladium (0) 22 mg, 2,2′-bisdiphenylphosphino-1,1′-binaphthyl 4 mg, cesium carbonate 43 mg and L-prolinol 88 mg, and the mixture is stirred at 120° C. for 5 hours. An aqueous saturated sodium hydrogen carbonate solution is added to the reaction mixture cooled, and the mixture is extracted with ethyl acetate. The combined organic layer is washed, dried and the solvent is removed in vacuo. The residue is purified by silica gel preparative thin-layer chromatography (developing solution; ethyl acetate) to give (S)-(3-chloro-4-methoxybenzylamino)-5-(2-hydroxymethyl-1-pyrrolidinyl)-2-(2-pyrimidinylmethylaminocarbonyl)pyridine as a pale brown powder 5.2 mg. MS(m/z): 483(M+H)+

reactant | 5-bromo-3-(3-chloro-4-methoxybenzylamino)-2-(2-pyrimidinylmethylaminocarbonyl)pyridine | BrC=1C=C(C(=NC1)C(=O)NCC1=NC=CC=N1)NCC1=CC(=C(C=C1)OC)Cl | C19H17BrClN5O2
reactant | 2,2′-bisdiphenylphosphino-1,1′-binaphthyl | 4 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 43 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | L-prolinol | 88 mg | N1[C@H](CO)CCC1 | C5H11NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | diglyme | 2 ml | COCCOCCOC | C6H14O3
product | (S)-(3-chloro-4-methoxybenzylamino)-5-(2-hydroxymethyl-1-pyrrolidinyl)-2-(2-pyrimidinylmethylaminocarbonyl)pyridine | 5.2 mg | ClC=1C=C(CNC=2C(=NC=C(C2)N2[C@@H](CCC2)CO)C(=O)NCC2=NC=CC=N2)C=CC1OC | C24H27ClN6O3
